US04289784
To a stirred solution of liquid ammonia, 22 ml. (1.0 mole), in 200 ml. of dimethylformamide is added portionwise 3.2 g. (10 mmole) of N-(2-bromoethyl)pyromellitic diimide. The mixture is stirred at room temperature (23° C.) for 48 hours. Excess ammonia is removed by concentration under reduced pressure without heating. Several volumes of dilute aqueous sodium carbonate are added to the concentrate with ice bath cooling. The insolubles are collected, rinsed with water, cold methanol, and ethyl ether furnishing N-(2-aminoethyl)pyromellitic diimide.

reactant | ammonia | N | H3N
reactant | N-(2-bromoethyl)pyromellitic diimide | 10 mmole | BrCCN=C(C=1C(C(=O)O)=CC(C(=O)O)=C(C(O)=N)C1)O | C12H11BrN2O6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-aminoethyl)pyromellitic diimide | NCCN=C(C=1C(C(=O)O)=CC(C(=O)O)=C(C(O)=N)C1)O | C12H13N3O6
